US04173633
The mixture of 7.58 g of slow moving 1-(2-isopropylaminopropyl)-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one hydrochloride, 4.8 g of allyl bromide, 5.5 g of potassium carbonate and 100 ml of anhydrous ethanol is refluxed for 3 hours. The mixture is recharged with 2.4 g of allyl bromide and 2.75 g of potassium carbonate and refluxed overnight. It is evaporated, water is added to the residue and the mixture extracted with chloroform. The extract is evaporated, the residue crystallized from petroleum ether and recrystallized from ethyl acetate to yield the 1-[2-(N-isopropyl-N-allylamino)propyl]-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one, melting at 168°-170°.

reactant | 1-(2-isopropylaminopropyl)-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one hydrochloride | Cl.C(C)(C)NC(CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O)C
reactant | allyl bromide | 4.8 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 2.4 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 2.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[2-(N-isopropyl-N-allylamino)propyl]-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one | C(C)(C)N(CC=C)C(CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O)C | C24H34N2O2
